US08389524B2
(c) 5,6,7,8-Tetrahydro-3-isoquinolinecarbaldehyde
A solution of 5,6,7,8-tetrahydro-3-isoquinolinylmethanol (572 mg, 3.50 mmol) in (DCM) (10 ml) at rt under argon was treated with manganese dioxide (3.047 g, 35.0 mmol) and then stirred at rt for 2 h. The reaction mixture was then filtered through a thin pad of Kieselguhr, eluting with DCM (50 ml), the organic extracts were evaporated to give the crude product as a brown oil (435 mg, 77%).

reactant | 5,6,7,8-tetrahydro-3-isoquinolinylmethanol | 3.50 mmol, 572 mg | C1=NC(=CC=2CCCCC12)CO | C10H13NO
catalyst | manganese dioxide | 35.0 mmol, 3.047 g | [O-2].[O-2].[Mn+4]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5,6,7,8-Tetrahydro-3-isoquinolinecarbaldehyde | 435 mg, 77% | C1=NC(=CC=2CCCCC12)C=O | C10H11NO
